US06933304B2
Tert-butyl 5-amino-3,3-dimethyl-5-oxopentanoate
5-Tert-butoxy-3,3-dimethyl-5-oxopentanoic acid (6 g, 27.8 mmol) was dissolved in DMF (111 mL) and benzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate (21.68 g, 41.7 mmol), 1-hydroxybenzotriazole (5.6 g, 41.7 mmol), diisopropylethylamine (19.3 mL, 111 mmol) and ammonium chloride (3 g, 55.6 mmol) were added. The mixture was stirred at room temperature for two hours. The DMF was removed under reduced pressure and the residue dissolved in ethyl acetate. The ethyl acetate was washed with 1N KHSO4, saturated sodium bicarbonate, brine, dried (Na2SO4) and concentrated. The residue was again dissolved in ethyl acetate, washed with 0.1N HCl, 0.1N NaOH, H2O, dried (Na2SO4), passed through a pad of silica and concentrated to give 4.9 g (82%) of the desired product. 1H NMR (DMSO-d6) 7.19 (br s, 1H), 6.71 (br s, 1H), 2.23 (s, 2H), 2.08 (s, 2H), 1.4 (s, 9H), 1.02 (s, 6H).

reactant | 5-Tert-butoxy-3,3-dimethyl-5-oxopentanoic acid | 27.8 mmol, 6 g | C(C)(C)(C)OC(CC(CC(=O)O)(C)C)=O | C11H20O4
reactant | benzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate | 41.7 mmol, 21.68 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 1-hydroxybenzotriazole | 41.7 mmol, 5.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 111 mmol, 19.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 55.6 mmol, 3 g | [Cl-].[NH4+]
solvent | DMF | 111 mL | CN(C)C=O | C3H7NO
product | Tert-butyl 5-amino-3,3-dimethyl-5-oxopentanoate | 4.9 g, 82% | NC(CC(CC(=O)OC(C)(C)C)(C)C)=O | C11H21NO3
